US03996374
A solution of 27.2 g. of 7-chloro-2,3-dihydro-2-oxo-5-phenyl-1H-1,4-benzodiazepine-3-carboxylic acid ethyl ester in 480 ml. of dimethylformamide is treated under nitrogen at -10° C. with 0.33 mol. of sodium hydride (14.4 g. of a 55% dispersion in mineral oil) and stirred at the same temperature for 15 minutes. To this mixture, there are added at -10° C. to -5° C. 27.2 g. of 2-diethylaminoethyl chloride hydrochloride; the mixture is then stirred at room temperature for 1 hour and subsequently heated for 3 hours at 60° C. After cooling, the mixture is poured into 4 liters of ice-water with stirring; 200 g. of sodium chloride are added and the oily precipitate is separated be decantation. The latter is immediately dissolved in methylene chloride and the organic solution, shielded from daylight, is washed with a saturated aqueous solution of sodium chloride, dried over sodium sulfate and concentrated to dryness. The resulting oil is dissolved in 100 ml. of ether and filtered; the filtrate is treated with 180 ml. of 0.5-N hydrochloric acid and throughly shaken. After cooling in an ice-bath, the crystallized hydrochloride is removed by filtration, washed with water and ether and then dissolved in 200 ml. of methylene chloride. After separation of the aqueous layer, the methylene chloride solution is dried over sodium sulfate, filtered and treated portionwise with 150 ml. of ether, whereby there is obtained 5-chloro-2-[2-(diethylamino)ethyl]-3-phenylisoindole-1-carboxylic acid ethyl ester hydrochloride; melting point 248°-250° C. (decomposition).

reactant | 7-chloro-2,3-dihydro-2-oxo-5-phenyl-1H-1,4-benzodiazepine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1C(NC2=C(C(=N1)C1=CC=CC=C1)C=C(C=C2)Cl)=O | C18H15ClN2O3
reactant | sodium hydride | [H-].[Na+]
reactant | 2-diethylaminoethyl chloride hydrochloride | Cl.C(C)N(CCCl)CC
reactant | sodium chloride | [Cl-].[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 5-chloro-2-[2-(diethylamino)ethyl]-3-phenylisoindole-1-carboxylic acid ethyl ester hydrochloride | Cl.C(C)OC(=O)C=1N(C(=C2C=C(C=CC12)Cl)C1=CC=CC=C1)CCN(CC)CC | InChI=1S/C23H27ClN2O2.ClH/c1-4-25(5-2)14-15-26-21(17-10-8-7-9-11-17)20-16-18(24)12-13-19(20)22(26)23(27)28-6-3;/h7-13,16H,4-6,14-15H2,1-3H3;1H
